US08535655B2
a) 4-hydroxybutyl 2-propylpentanoate
2-propylpentanoic acid (40.16 g, 278.5 mmol) was mixed with butane-1-4-diol (114.65 g, 1272.2 mmol) and methyl-sulfonic acid (5 drops) in toluene (3500 ml) and the mixture was heated under reflux using a Dean Stark trap for 12 h. After that, toluene was removed under reduced pressure and the crude mixture was dissolved in chloroform (200 ml) and extracted with water (pH 5, 3×200 ml). The combined organic layers were dried over sodium sulfate and the volatiles were removed under reduced pressure giving a clear oil (99%).

reactant | 2-propylpentanoic acid | 278.5 mmol, 40.16 g | C(CC)C(C(=O)O)CCC | C8H16O2
reactant | butane-1-4-diol | 1272.2 mmol, 114.65 g | C(CCCO)O | C4H10O2
catalyst | methyl-sulfonic acid | 5 drops | CS(=O)(=O)O | CH4O3S
solvent | toluene | 3500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxybutyl 2-propylpentanoate | 99% | C(CC)C(C(=O)OCCCCO)CCC | C12H24O3
